US04115575
12 g of sodium hydride dispersion (55% strength) are added in portions to 44 g of 5-(2'-aminoethyl)-2,3-dichloro-pyridine and 55 g of 5-hydroxymethyl-3-isopropyl-2-phenyl-oxazolidine, dissolved in 500 ml of 1,2-dimethoxyethane, whilst cooling with ice at 0°-10° C. The reaction mixture is then stirred for 2 hours at room temperature and 16 hours under reflux. Working up gives crude 5-(2'-aminoethyl)-3-chloro-2-[3'-isopropyl-2'-phenyl-oxazolidinyl-(5')]-methoxy-pyridine, which is hydrolysed without further purification, analogously to Example 37), to give 5-(2'-aminoethyl)-3-chloro-2-(3'-isopropylamino-2'-hydroxy-propoxy)-pyridine (boiling point 165°-185° C./0.06 mm Hg).

reactant | sodium hydride | 12 g | [H-].[Na+]
reactant | 5-(2'-aminoethyl)-2,3-dichloro-pyridine | 44 g | NCCC=1C=C(C(=NC1)Cl)Cl | C7H8Cl2N2
reactant | 5-hydroxymethyl-3-isopropyl-2-phenyl-oxazolidine | 55 g | OCC1CN(C(O1)C1=CC=CC=C1)C(C)C | C13H19NO2
solvent | 1,2-dimethoxyethane | 500 ml | COCCOC | C4H10O2
product | 5-(2'-aminoethyl)-3-chloro-2-(3'-isopropylamino-2'-hydroxy-propoxy)-pyridine | NCCC=1C=C(C(=NC1)OCC(CNC(C)C)O)Cl | C13H22ClN3O2
